US06887896B1
Ethyl (2E,4E,6E)-7-(4-bromo-3-isopropoxy-8-isopropyl-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-6-fluoro-3-methyl-octa-2,4,6-trienoate (Compound A-161)
Following General Procedure I-1, ethyl 4-(diethoxyphosphoryl)-3-methyl-but-2E-enoate (417 mg, 1.58 mmol) and (2E)-3-(4-bromo-3-isopropoxy-8-isopropyl-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-2-fluoro-but-2-enal (Compound A-150, 167 mg, 0.39 mmol) were reacted to give the title compound as a colorless oil after purification by column chromatography (silica gel, 2% ethyl acetate in hexane).

reactant | ethyl 4-(diethoxyphosphoryl)-3-methyl-but-2E-enoate | 1.58 mmol, 417 mg | C(C)OP(=O)(OCC)C/C(=C/C(=O)OCC)/C | C11H21O5P
reactant | (2E)-3-(4-bromo-3-isopropoxy-8-isopropyl-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-2-fluoro-but-2-enal | 0.39 mmol, 167 mg | BrC1=C(C(=CC=2C(=CCC(C12)(C)C)C(C)C)/C(=C(\C=O)/F)/C)OC(C)C | C22H28BrFO2
product | Ethyl (2E,4E,6E)-7-(4-bromo-3-isopropoxy-8-isopropyl-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-6-fluoro-3-methyl-octa-2,4,6-trienoate | BrC1=C(C(=CC=2C(=CCC(C12)(C)C)C(C)C)/C(=C(\C=C\C(=C\C(=O)OCC)\C)/F)/C)OC(C)C | C29H38BrFO3
